US04511569
Preparation of 5,6-Dihydrobenzo[f]quinolin-3(4H)-one-2-carboxamidine Hydrochloride
Add 2.10 gm of 2-cyano-5,6-dihydrobenzo[f]quinolin-3(4H)-one to 0.53 gm of ammonium chloride in liquid ammonia in a steel bomb. Heat the system to 80° C. for 24 hours. Cool the system to room temperature and remove the ammonia. Isolate 5,6-dihydrobenzo[f]quinolin-3(4H)-one-2-carboxamidine hydrochloride.

reactant | 2-cyano-5,6-dihydrobenzo[f]quinolin-3(4H)-one | 2.10 gm | C(#N)C=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C14H10N2O
reactant | ammonium chloride | 0.53 gm | [Cl-].[NH4+]
reactant | ammonia | N | H3N
product | 5,6-Dihydrobenzo[f]quinolin-3(4H)-one-2-carboxamidine Hydrochloride | Cl.C1=C(C(NC=2CCC3=C(C12)C=CC=C3)=O)C(=N)N | InChI=1S/C14H13N3O.ClH/c15-13(16)11-7-10-9-4-2-1-3-8(9)5-6-12(10)17-14(11)18;/h1-4,7H,5-6H2,(H3,15,16)(H,17,18);1H
